US05576340
2-[2-(4-Methoxycarbonylmethylphenoxy)-1-methylethyl]-amino-1- (3 -methoxyphenyl)ethanol (Compound No. 3-62)
Following a procedure similar to that described in Example 3, but using 2.5 g of 2-amino-1-(3-methoxyphenyl)ethanol (prepared as described in Preparation 43), 4.0 g of methyl 4-(2-oxopropoxy)phenylacetate (prepared as described in Preparation 3), 80 ml of benzene, 60 ml of absolute methanol and 2.75 g of sodium cyanoborohydride, and then purifying the reaction product by column chromatography through silica gel, using ethyl acetate as the eluent, 3.11 g of the title compound were obtained having an Rf=0.21 (thin layer chromatography over silica gel, using ethyl acetate as the developing solvent).

reactant | 2-amino-1-(3-methoxyphenyl)ethanol | 2.5 g | NCC(O)C1=CC(=CC=C1)OC | C9H13NO2
reactant | methyl 4-(2-oxopropoxy)phenylacetate | 4.0 g | O=C(COC1=CC=C(C=C1)CC(=O)OC)C | C12H14O4
reactant | benzene | 80 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 2.75 g | C(#N)[BH3-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 2-[2-(4-Methoxycarbonylmethylphenoxy)-1-methylethyl]-amino-1- (3 -methoxyphenyl)ethanol | 3.11 g | COC(=O)CC1=CC=C(OCC(C)CC(O)(C2=CC(=CC=C2)OC)N)C=C1 | C21H27NO5
